US07964743B2
A THF (120 mL) solution of (R,R)-2,2′-bismethoxymethoxy-1,1′-binaphthol (Compound 2) (46 mmol) was charged to a 200 mL flask and cooled to −78° C., N,N,N′,N′-tetramethylethylenediamine (66 mmol) was added, after which n-butyllithium was added dropwise. The mixture was stirred for 30 minutes at 0° C., a THF solution of N,N-dimethylformamide was added dropwise at −78° C., and the mixture was stirred for 30 minutes. The temperature was increased to 0° C. and the mixture was stirred for 40 minutes. Saturated ammonium chloride aqueous solution and 1 N hydrochloric acid were added. The mixture was extracted with diethyl ether. The organic layer was dried with anhydrous sodium sulfate, the solvent was distilled off, and the residue was purified by silica gel chromatography. The product was then recrystallized from methylene chloride/hexane (yield 67 percent).

reactant | N,N,N′,N′-tetramethylethylenediamine | 66 mmol | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | methylene chloride hexane | yield 67 percent | C(Cl)Cl.CCCCCC | InChI=1S/C6H14.CH2Cl2/c1-3-5-6-4-2;2-1-3/h3-6H2,1-2H3;1H2
